US06521666B1
Methylisothiocyanate (43 μL) was added to a solution of N-(4-amino-2-chlorobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine methyl ester (55.1 mg) in anhydrous DMF (1 mL) containing DIEA (22 μL) and DMAP (catalitic amount). The resulting mixture was then heated at 90° C. under N2 for 1 d. After cooling, the mixture was diluted with EtOAc, washed sequentially with 1N HCl, satd. NaHCO3 and water, dried (MgSO4) and evaporated. The residue was purified by preparative TLC (silica gel) using CH2Cl2/MeOH (15:1) as an eluent to give N-[2-chloro-4-(3-methylthioureido)benzoyl]-4-(2-methoxyphenyl)-L-phenylalanine methyl ester (22.7 mg). ESMS: m/z 512 (MH+).

reactant | Methylisothiocyanate | 43 μL | CN=C=S | C2H3NS
reactant | N-(4-amino-2-chlorobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine methyl ester | 55.1 mg | COC([C@@H](NC(C1=C(C=C(C=C1)N)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)OC)=O | C24H23ClN2O4
reactant | DIEA | 22 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[2-chloro-4-(3-methylthioureido)benzoyl]-4-(2-methoxyphenyl)-L-phenylalanine methyl ester | 22.7 mg | COC([C@@H](NC(C1=C(C=C(C=C1)NC(=S)NC)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)OC)=O | C26H26ClN3O4S
